Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea, chest pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ woman with HTN, IDDM, HLD with heart failure (unknown EF) 
diagnosed ___ at ___ here with worsening dyspnea on exertion, 
lower extremity edema.

She was initially presented to ___ ___ and was diagnosed with 
heart failure. She was diuresed in the hospital and improved. 
She had poor adherence on follow up, stopped taking 60mg po 
Lasix when she was discharged. She did continue to take on 
metoprolol and lisinopril. She does not weigh herself. 

Presents with gradually worsening dyspnea on exertion, lower 
extremity edema, PND, orthopnea for two months, but most 
noticeably over the last 2 weeks. She cannot walk up a flight of 
stairs without stopping several times due to dyspnea, she cannot 
walk >1city block at a time due to dyspnea, which resolves with 
rest. Her lower extremities have become progressively swollen 
over the last few months, but now feel "tight" and heavy. 

She also reported an isolated episode of sharp chest pain 
awakening her from sleep last night which lasted seconds and 
resolved without intervention. Location L anterior chest with 
radiation to her left arm. No association with palpation, 
position. She denies current chest pain/pressure, or chest 
pressure that increases with predictable activity or resolves 
with rest. She was given sublingual nitro x1 in ambulance.

Of note, she is a longstanding diabetic, diagnosed ___ years 
ago. Over the last ___ years has gotten better control. Knows she 
has retinopathy, severe neuropathy. Has never been told had 
kidney problems before. She has an opthalomologist but never has 
seen podiatry.

She notes history of foot wound that was "cut" by PCP in 
___. She describes being prescribed a 14 day course of 
augmentin for this wound. She does not remember being told it 
was related to diabetes.

In the ED initial vitals were:  
97.6 90 138/83 20 100% Nasal Cannula 
BP notable for 170-190's/70's-100's
 
Labs/studies notable for:  
___: 10773, Trop-T 0.04, CK 426, MB 5
Cr 1.6 (unknown baseline), Chem 10 otherwise unremarkable 
Hg 10.9, WBC, PLT wnl 
UA 300 prtn RBC 163, Blood Mod

LUE Ultrasound ___:
No evidence of deep vein thrombosis in the left upper extremity.

CXR ___:
No definite focal consolidation is seen. There is no large 
pleural effusion or pneumothorax. The cardiac and mediastinal 
silhouettes are stable. No pulmonary edema is seen. 
No acute cardiopulmonary process. 

BEDSIDE TTE by cards fellow ___: some LVH, mild MR, AI, TR, 
trivial effusion, unable to clearly assess wall motion.

Patient was given:  
IV Furosemide 80 mg 
 
Vitals on transfer:  
VS: T98 BP194/101, 168/86 HR 73 RR 20 O2 SAT 97% RA 
 
On the floor the patient reports fatigue but denies dyspnea, 
chest pressure, nausea, vomiting. 

 
Past Medical History:
- Diabetes mellitus, A1C 7.2% on admission (___), complicated 
by neuropathy 
- Hypertension
- Hyperlipidemia
- HF pEF, diagnosed during hospitalization at ___ (___)
- R foot ulcer 
 
Social History:
___
Family History:
Cousin with ICD placement, ___ 
No family history of early MI, cardiomyopathies, or sudden 
cardiac death. 
 
Physical Exam:
== ADMISSION PHYSICAL EXAMINATION ==
VS: T98 BP194/101, 168/86 HR 73 RR 20 O2 SAT 97% RA  
I/O: -/540in ED +NR
Weight: 126.2kg,  unknown dry weight
GENERAL: Well developed, well nourished female in NAD. Oriented 
x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. JVP of 13cm with head of bed at 30 degrees
CARDIAC: laterally displaced PMI. Regular rate and rhythm. 
Normal S1, S2. diastolic murmur. No rubs, or gallops. No thrills 
or lifts.  
LUNGS: Respiration is unlabored with no accessory muscle use. 
Breath sounds limited by habitus. Crackles to bases, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. 
EXTREMITIES: 4+ pitting edema to thighs B/L, 1+ extending to 
umbilicus. Warm, well perfused. No clubbing, cyanosis. L>R arm 
swelling.  
SKIN: R foot with 1cm punched out, ~3mm deep ulcer with foul 
smell emanating, but no overt. No rashes.  
NEURO: decreased sensation to light touch to feet B/L.  

== DISCHARGE PHYSICAL EXAMINATION == 
VITALS: T 97.2, BP 135-145/79-88, HR 72-85, RR 18, SpO2 98/RA
WEIGHT: 106.1 kg -> 107 kg
I/O: 24hr 1100/2175, 8h 100/800
GENERAL: well-appearing obese female, NAD
HEENT: moist membranes, PERRL
NECK: JVP elevated to 7-8cm at 45 degrees, thyromegaly R>L
CARDIAC: RRR, ___ high pitched SEM at RUSB, heard throughout 
rest of precordium
LUNGS: distant breath sounds, CTAB
ABDOMEN: Normoactive BS throughout, non tender
EXTREMITIES: WWP, 2+ pitting edema to knees b/l. R heel - 
wrapped in guaze, dressing is clean/dry
 
Pertinent Results:
== ADMISSION LABS ==
___ 11:45AM BLOOD WBC-6.1 RBC-3.96 Hgb-10.9* Hct-34.2 
MCV-86 MCH-27.5 MCHC-31.9* RDW-13.9 RDWSD-43.5 Plt ___
___ 11:45AM BLOOD Neuts-63.8 ___ Monos-6.4 Eos-1.3 
Baso-0.5 Im ___ AbsNeut-3.88 AbsLymp-1.69 AbsMono-0.39 
AbsEos-0.08 AbsBaso-0.03
___ 11:45AM BLOOD ___ PTT-31.8 ___
___ 11:45AM BLOOD Glucose-83 UreaN-16 Creat-1.6* Na-141 
K-3.4 Cl-107 HCO3-28 AnGap-9
___ 11:45AM BLOOD CK(CPK)-426*
___ 11:45AM BLOOD CK-MB-5 ___
___ 11:45AM BLOOD Calcium-8.6 Phos-3.7 Mg-1.6 Iron-58

== NOTABLE INTERVAL LABS ==
___ 05:55PM BLOOD ALT-12 AST-18 LD(LDH)-303* CK(CPK)-559* 
AlkPhos-91 TotBili-0.2
___ 06:29AM BLOOD CK(CPK)-328*
___ 11:45AM BLOOD calTIBC-233* Ferritn-27 TRF-179*
___ 11:45AM BLOOD %HbA1c-7.2* eAG-160*
___ 11:45AM BLOOD TSH-6.1*
___ 03:00PM BLOOD T4-7.4
___ 11:45AM BLOOD RheuFac-14 ___ CRP-4.9
___ 03:00PM BLOOD PEP-AWAITING F FreeKap-86.8* 
FreeLam-52.2* Fr K/L-1.66* IFE-PND

== IMAGING ==
-- ___ CXR
No acute cardiopulmonary process. 

-- ___ UNILAT UPPER EXTR ULTRASOUND
No evidence of deep vein thrombosis in the left upper extremity.

-- ___ TTE
The left atrium is moderately dilated. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is low normal (LVEF 55%). The estimated 
cardiac index is depressed (<2.0L/min/m2). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). There is no ventricular septal defect. The right 
ventricular cavity is mildly dilated with mild global free wall 
hypokinesis. There is abnormal systolic septal motion/position 
consistent with right ventricular pressure overload. The 
ascending aorta and aortic arch are mildly dilated. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. There 
is no mitral valve prolapse. There is absent transmitral A wave 
c/w impaired left atrial mechanical function. Mild to moderate 
(___) mitral regurgitation is seen. There is moderate pulmonary 
artery systolic hypertension. The end-diastolic pulmonic 
regurgitation velocity is increased suggesting pulmonary artery 
diastolic hypertension. There is a trivial pericardial effusion. 

 IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved regional and low normal global left ventricular 
systolic function. Moderate pulmonary artery systolic 
hypertension. Mild-moderate mitral regurgitation. Mildly dilated 
thoracic aorta. Increased PCWP. Absent transmitral A wave.
 The symmetric left ventricular hypertrophy with increased PCWP 
and absent transmitral A wave and multivalvular regurgitation 
are suggestive of an infiltrative process (e.g., amyloid). 

-- ___ CARDIAC MRI
The left atrial AP dimension is mildly increased with moderate 
left atrial elongation. The right atrium is
moderately dilated. There is normal left ventricular wall 
thickness with normal mass. Normal left ventricular
end-diastolic dimension with SEVERELY increased left ventricular 
end-diastolic volume and
moderately increased end-diastolic volume index. There is mild 
global left ventricular hypokinesis with
relative preservation of apical function. The left ventricular 
cardiac index is normal. There is uniformity
in regional T2. Early gadolinium enhancement images showed no 
enhancement. There is no late
gadolinium enhancement (absence of scar/fibrosis). Mildly 
increased right ventricular end-diastolic volume
index with mild global free wall hypokinesis and low normal 
ejection fraction. Normal origin of the
right and left main coronary arteries. Mildly increased 
ascending aorta diameter (normal BSA indexed
ascending aorta diameter) with normal aortic arch diameter and 
mIldly dilated descending thoracic aorta
(normal BSA indexed descending aorta diameter). Mildly increased 
abdominal aorta diameter (normal
BSA indexed abdominal aorta diameter). Moderately increased 
pulmonary artery diameter with mildly
increased BSA indexed PA diameter. The # of aortic valve 
leaflets could not be determined. There is no
aortic valve stenosis. Mild aortic regurgitation is seen. There 
is moderate mitral regurgitation. There is
moderate tricuspid regurgitation. There is a small 
circumferential pericardial effusion. Pericardial thickness
is normal. There is a small right pleural effusion.
IMPRESSION: Normal left ventricular wall thickness and global 
mass. Moderately dilated left ventricular
cavity with mild global hypokinesis. No evidence of myocardial 
edema, inflammation, infiltration
or scar/fibrosis. Mildly dilated right ventricular cavity with 
low normal free wall motion. Moderate mitral
regurgitation. Moderate tricuspid regurgitation.
These findings are most c/w a non-ischemic dilated 
cardiomyopathy.

___ Imaging THYROID U.S. 
Heterogeneous hypervascular thyroid gland compatible with 
thyroiditis. No 
discrete nodules identified. 

== DISCHARGE LABS == 
___ 04:25AM BLOOD WBC-6.6 RBC-4.20 Hgb-11.4 Hct-36.1 MCV-86 
MCH-27.1 MCHC-31.6* RDW-14.1 RDWSD-43.8 Plt ___
___ 04:25AM BLOOD Plt ___
___ 04:25AM BLOOD Calcium-9.2 Phos-4.4 Mg-2.0
 
Brief Hospital Course:
This is a ___ year old woman with a PMH notable for hypertension, 
hyperlipidemia, history of heart failure (NOS) and type II 
diabetes mellitus (on insulin), who presented with massive ___ 
edema, concerning for heart failure, found to have signs 
suggestive of infiltrative cardiac disease on TTE. 

# Acute on chronic heart failure with preserved ejection 
fraction: diagnosed ___ at ___ [records obtained, in paper 
chart -- notable for EF 56%, grade II diastolic dysfunction, dry 
weight 110 kg]. TTE concerning for restrictive physiology and 
possible infiltrative process, such as amyloidosis. Cardiac MRI 
obtained, which demonstrated what is almost certainly dilated 
cardiomyopathy due to hypertension. No evidence of infiltrative 
disease on cardiac MRI. Presented massively overloaded on 
examination. Aggresively diuresed with furosemide gtt, then 
furosemide boluses, and finally oral torsemide. Initially held 
lisinopril given elevated Cr, but appears baseline. Slowly 
restarted & uptitrated, given degree of hypertension & 
proteinuria. Metoprolol was stopped, given preserved EF and 
possible constrictive physiology.
- Discharge weight: 106.5 kg, 234.8 lbs
- Discharge Cr: 2.1
- Discharge diuretic regimen: torsemide 100mg BID

# Type II NSTEMI: perhaps demand in setting of volume overload 
and CHF, as above. Started on aspirin 81 mg daily and 
atorvastatin 40 mg HS. Once euvolemic, stress test showed no 
focal ischemia or perfusion defects. 

# Hypertension: quite elevated on admission (180s+). Lisinopril 
40mg used, as above. Started on amlodipine and isosorbide 
mononitrate, which she tolerated well with satisfactory 
improvement of BP.

# Renal failure: likely chronic, with possible acute component. 
Significant proteinuria, with Pr/Cr 11.1. Possible etiologies 
include diabetic nephropathy, cardiorenal syndrome and 
hypertensive nephropathy. Creatinine 2.1 at discharge; it was 
stable at this level for ~1 week prior to discharge.

# NEUROPATHIC HEEL ULCER: not infected. Likely diabetic. Dressed 
per wound care recs. Debrided at bedside on ___ by podiatry. 
Will follow-up with podiatry as outpatient.

# TYPE II DIABETES: FSG generally under good control. Glargine 
decreased to 28U at bedtime with Humalog sliding scale at meals 
and bedtime.

# ELEVATED CK: unclear etiology, resolved.

# THYROMEGALY: TSH>6, T4 normal. Thyroid US with vascular 
congestion. Discussed case with endocrine, who recommends 
outpatient endocrine follow-up. Follow-up appointment is 
scheduled.

# IRON DEFICIENCY: Given history of CHF and iron studies 
indicative of deficiency, she was given IV iron while in house, 
and should have iron studies rechecked as an outpatient.

TRANSITIONAL ISSUES:
====================
[ ] f/u with podiatry for neuropathic ulcer
[ ] f/u with endocrine for radiographic thyroiditis
[ ] Chem ___ at ___ NP appointment next week
[ ] f/u with Dr ___ in ___ office after seeing ___ NP
[ ] Daily weights, call ___ office if increase >3 pounds in one 
day
[ ] recheck iron studies as an outpatient to ensure proper 
repletion with IV Iron while in house
- Discharge weight: 106.5 kg = 234.8 lbs
- Discharge Cr: 2.1
- Discharge diuretic regimen: torsemide 100mg BID
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Glargine 41 Units Bedtime
4. Gabapentin 100 mg PO TID 
5. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
6. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg One tablet(s) by mouth Once a day Disp #*30 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg One tablet(s) by mouth Once a day Disp #*30 
Tablet Refills:*0 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg One tablet(s) by mouth Once a day Disp 
#*30 Tablet Refills:*0 
4.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg Once tablet(s) by mouth Once a 
day Disp #*30 Tablet Refills:*0 
5.  Torsemide 80 mg PO BID 
RX *torsemide 20 mg Four tablet(s) by mouth Once in the morning 
and once in the evening Disp #*240 Tablet Refills:*0 
6.  Glargine 28 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
7.  Ferrous Sulfate 325 mg PO DAILY  
8.  Gabapentin 100 mg PO TID  
9.  Lisinopril 40 mg PO DAILY  
10.straight cane
DX: diabetic ulcer and chronic foot pain
PX: good
___: 12 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: acute on chronic diastolic heart failure, R 
foot ulcer, diabetes mellitus (type II, on insulin)

Secondary diagnoses: elevated CK

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with too much fluid in your 
body. You received a medicine called "Lasix" or furosemide, to 
help remove the extra fluid from your body. 

You also had extensive testing of your heart to find out why you 
have "heart failure." This showed that your heart failure is 
likely related to your high blood pressure. 

You also were seen by the podiatrists ("foot doctors") because 
of the wound on the bottom of your right foot. They cleaned it, 
and recommended that you follow-up with them in their ___ 
urgent ___ center one week after discharge (___).

We noticed that your thyroid gland in your neck is bigger than 
usual. We did some testing of the thyroid, which showed that it 
is working normally. Our endocrine doctors ___ for the 
thyroid gland) will see you in the office in a few weeks to 
check in on your thyroid. If you notice any difficulty in 
swallowing, changes in your voice, racing heart or heart 
fluttering, please call their office to tell them your symptoms.

Be sure to take ALL of your medicines as prescribed. Follow up 
with your doctors, as scheduled below. 

Be sure to weigh yourself every day! Weigh yourself first thing 
in the morning, after you have gone to the bathroom. When you 
were discharged, your weight was 234.8 lbs. If your weight goes 
up by more than 3 lbs in one day, or 5 lbs in one week, call 
___ to speak with our cardiology team about your weight 
change.

It was a pleasure taking care of you! We wish you the very best.
Your ___ Cardiology Team
 
Followup Instructions:
___